### PR TITLE
[Merged by Bors] - feat: the n-th harmonic number is not an integer for n > 1.

### PR DESCRIPTION
**Pull request by kodyvajjha**
The n-th Harmonic number is not an integer for n > 1. This proof uses 2-adic valuations. 
 
---

This proof is of Theorem 1 in Keith Conrad's [blurb](https://kconrad.math.uconn.edu/blurbs/gradnumthy/padicharmonicsum.pdf). This proof is credited to Kürschák (1918). From this it follows that the 2-adic valuation of `H_n` tends to infinity as `n` does. We quickly run into open problems when similar questions are asked for odd primes `p`.  

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 1]
```diff
@@ -535,6 +583,26 @@ theorem padicValNat_primes {q : ℕ} [hp : Fact p.Prime] [hq : Fact q.Prime] (ne
...
+
+  lemma le_nat_log_gen {n₁ n₂ : ℕ} [Fact (Nat.Prime p)] (hn : n₁ ≤ n₂):
+    padicValNat p n₁ ≤ Nat.log p n₂ := le_trans (le_nat_log n₁) (Nat.log_mono_right hn)
+
+  /-- The p-adic valuation of `n` is equal to the logarithm w.r.t `p` iff
+      `n` is less than `p` raised to one plus the p-adic valuation of `n`. -/
+  lemma nat_log_eq_padicvalnat_iff {n : ℕ} [hp : Fact (Nat.Prime p)] (hn : 0 < n):
+  Nat.log p n = padicValNat p n ↔ n < p^(padicValNat p n + 1) := by
+    · rw [Nat.log_eq_iff (Or.inr ⟨(Nat.Prime.one_lt' p).out, by linarith⟩)]
+      · rw [and_iff_right_iff_imp]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:603]: Why do you need this `·` block?

**Review by Ruben-VandeVelde — COMMENTED** [review]
Please don't be intimidated by the comments below, they're simple stylistic suggestions

File: Counterexamples/HarmonicNotInteger.lean [hunk 2]
```diff
@@ -0,0 +1,166 @@
...
+
+lemma harmonic_singleton_ne_zero {c n : ℕ} (hn : 2 ≤ n) :
+ (∑ x in Finset.range n \ {c}, 1 / ((x + 1 : ℚ)) ≠ 0) := by
+  refine' ne_of_gt <| Finset.sum_pos (fun i _ => div_pos zero_lt_one _)
+    (finset_range_sdiff_singleton_nonempty hn)
+  norm_cast; simp only [add_pos_iff, or_true]
+
+/-- If a rational is not a 2-adic integer, it is not an integer. -/
+theorem not_int_of_not_padic_int {a : ℚ} (H : 1 < padicNorm 2 a):
+ ¬ a.isInt := by
```
[the remark this answers is not in the document]
Comment (kodyvajjha) [reply Counterexamples/HarmonicNotInteger.lean:53]: I use `Rat.isInt` at the main conclusion
```
theorem harmonic_not_int : ∀ n, n ≥ 2 → ¬ (harmonic n).isInt := by
```

File: Counterexamples/HarmonicNotInteger.lean [hunk 3]
```diff
@@ -0,0 +1,166 @@
...
+lemma padicValRat_2_pow (r : ℕ) : padicValRat 2 (1 / 2^r) = -r := by
+  rw [one_div,padicValRat.inv,neg_inj,padicValRat.pow (by simp)]
+  suffices : padicValRat 2 2 = 1
+  simp only [this, mul_one]
+  rw [←padicValRat.self (p := 2) one_lt_two]; simp only [Nat.cast_ofNat]
+
+/-- For `i` less than `n`, `2^Nat.log 2 n` does not divide `i` unless `i` is equal to it. -/
+lemma nat_log_not_dvd {n : ℕ} :
+ ∀ i, 0 < i ∧ i ≠ 2^(Nat.log 2 n) ∧ i ≤ n → ¬ 2^(Nat.log 2 n) ∣ i := by
+  rintro i ⟨Hi₁,Hi₂,Hi₃⟩
```
[the remark this answers is not in the document]
Comment (kodyvajjha) [reply Counterexamples/HarmonicNotInteger.lean:78]: The `^` is not the conjuction connective but rather nat exponentiation :) And I don't think so! I make essential use of parity in this proof...

**Comment by kodyvajjha** [comment]
@Ruben-VandeVelde thank you for your comments, I've incorporated most of them and the build passes. @alexjbest suggested that we could move this material out of Counterexamples and into mathlib proper. I could do that as a follow up PR if that works.

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 4]
```diff
@@ -431,6 +431,39 @@ theorem min_le_padicValRat_add {q r : ℚ} (hqr : q + r ≠ 0) :
...
+    padicValRat p (q + r) = min (padicValRat p q) (padicValRat p r) := by
+  have Hmin := padicValRat.min_le_padicValRat_add (p := p) (hp := hp) hqr
+  wlog h : padicValRat p q < padicValRat p r generalizing q r with Hgen
+  · push_neg at h; rw [add_comm, min_comm]
+    exact Hgen (by rwa [add_comm]) hr hq hval.symm
+      (by rwa [min_comm, add_comm])
+      (hval.symm.lt_of_le h)
+  · rw [min_eq_left (le_of_lt h)] at Hmin ⊢
+    suffices Hreq : padicValRat p q ≥ padicValRat p (q + r) by linarith
+    suffices Haux : padicValRat p q ≥ min (padicValRat p (q + r)) (padicValRat p r) by
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:446]: we tend to phrase everything in terms of `\le` rather than `\ge` in mathlib, I'd suggest doing that here

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 5]
```diff
@@ -431,6 +431,39 @@ theorem min_le_padicValRat_add {q r : ℚ} (hqr : q + r ≠ 0) :
...
+    calc padicValRat p q = padicValRat p ((q + r) - r) := by congr; simp
+    _ ≥ min (padicValRat p (q + r)) (padicValRat p (-r)) :=
+    ge_iff_le.mp <| le_trans (padicValRat.min_le_padicValRat_add (q := q+r) (r := -r) (by simpa))
+      (by rw [add_neg_cancel_right, add_sub_cancel])
+    _ = min (padicValRat p (q + r)) (padicValRat p r) := by rw [padicValRat.neg]
+
+lemma add_eq_of_lt {q r : ℚ} (hqr : q + r ≠ 0)
+(hq : q ≠ 0) (hr : r ≠ 0) (hval : padicValRat p q < padicValRat p r) :
+padicValRat p (q + r) = padicValRat p q :=
+by rw [min_eq_padicValRat_add hqr hq hr (ne_of_lt hval),min_eq_left (le_of_lt hval)]
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:460]:
```suggestion
    (hq : q ≠ 0) (hr : r ≠ 0) (hval : padicValRat p q < padicValRat p r) :
    padicValRat p (q + r) = padicValRat p q := by
  rw [min_eq_padicValRat_add hqr hq hr (ne_of_lt hval),min_eq_left (le_of_lt hval)]
```

Comment (alexjbest) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:460]: Try and follow this indentation style throughout the file (look at files in mathlib for more examples) but we do 4 spaces for the statement and 2 for the proof now (and tend to put by on the previous line)

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 6]
```diff
@@ -535,6 +583,24 @@ theorem padicValNat_primes {q : ℕ} [hp : Fact p.Prime] [hq : Fact q.Prime] (ne
     (not_congr (Iff.symm (prime_dvd_prime_iff_eq hp.1 hq.1))).mp neq
 #align padic_val_nat_primes padicValNat_primes
 
+/-- The p-adic valuation of `n` is less than or equal to its logarithm w.r.t `p`.-/
+lemma le_nat_log (n : ℕ) [hp : Fact (Nat.Prime p)]: padicValNat p n ≤ Nat.log p n := by
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:587]:
```suggestion
lemma le_nat_log (n : ℕ) [hp : Fact (Nat.Prime p)] : padicValNat p n ≤ Nat.log p n := by
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 7]
```diff
@@ -535,6 +583,24 @@ theorem padicValNat_primes {q : ℕ} [hp : Fact p.Prime] [hq : Fact q.Prime] (ne
...
+  · refine' Nat.le_log_of_pow_le (Nat.Prime.one_lt hp.elim) _
+    by_contra Hnot; push_neg at Hnot
+    exact h (Nat.eq_zero_of_dvd_of_lt (pow_padicValNat_dvd (p := p) (n := n)) Hnot)
+
+lemma le_nat_log_gen {n₁ n₂ : ℕ} [Fact (Nat.Prime p)] (hn : n₁ ≤ n₂):
+    padicValNat p n₁ ≤ Nat.log p n₂ := le_trans (le_nat_log n₁) (Nat.log_mono_right hn)
+
+/-- The p-adic valuation of `n` is equal to the logarithm w.r.t `p` iff
+    `n` is less than `p` raised to one plus the p-adic valuation of `n`. -/
+lemma nat_log_eq_padicvalnat_iff {n : ℕ} [hp : Fact (Nat.Prime p)] (hn : 0 < n):
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:599]:
```suggestion
lemma nat_log_eq_padicValNat_iff {n : ℕ} [hp : Fact (Nat.Prime p)] (hn : 0 < n):
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 8]
```diff
@@ -535,6 +583,24 @@ theorem padicValNat_primes {q : ℕ} [hp : Fact p.Prime] [hq : Fact q.Prime] (ne
...
+    Nat.log p n = padicValNat p n ↔ n < p^(padicValNat p n + 1) := by
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:600]:
```suggestion
    Nat.log p n = padicValNat p n ↔ n < p ^ (padicValNat p n + 1) := by
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 9]
```diff
@@ -535,6 +583,24 @@ theorem padicValNat_primes {q : ℕ} [hp : Fact p.Prime] [hq : Fact q.Prime] (ne
...
 
+/-- The p-adic valuation of `n` is less than or equal to its logarithm w.r.t `p`.-/
+lemma le_nat_log (n : ℕ) [hp : Fact (Nat.Prime p)]: padicValNat p n ≤ Nat.log p n := by
+  by_cases (n = 0)
+  · simp only [h, padicValNat.zero, Nat.log_zero_right, le_refl]
+  · refine' Nat.le_log_of_pow_le (Nat.Prime.one_lt hp.elim) _
+    by_contra Hnot; push_neg at Hnot
+    exact h (Nat.eq_zero_of_dvd_of_lt (pow_padicValNat_dvd (p := p) (n := n)) Hnot)
+
+lemma le_nat_log_gen {n₁ n₂ : ℕ} [Fact (Nat.Prime p)] (hn : n₁ ≤ n₂):
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:594]:
```suggestion
lemma le_nat_log_gen {n₁ n₂ : ℕ} [Fact (Nat.Prime p)] (hn : n₁ ≤ n₂) :
```

Comment (alexjbest) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:594]: Also what does `gen` mean here?

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 10]
```diff
@@ -448,6 +481,21 @@ theorem sum_pos_of_pos {n : ℕ} {F : ℕ → ℚ} (hF : ∀ i, i < n → 0 < pa
         exact hF _ (lt_trans hi (lt_add_one _))
 #align padic_val_rat.sum_pos_of_pos padicValRat.sum_pos_of_pos
 
+/-- If the p-adic valuation of a finite set of positive rationals is greater than a given rational
+number, then the p-adic valuation of their sum is also greater than the same rational number. -/
+theorem finset_gen_sum_lt_of_lt {p j : ℕ} [hp : Fact (Nat.Prime p)]
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:486]: what is `gen`?

**Review by alexjbest — CHANGES_REQUESTED** [review]

File: Mathlib/NumberTheory/Padics/PadicVal.lean (hunk 9 above)
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:594]: Err. Poor naming. I renamed it to `le_nat_log_of_le`

File: Mathlib/NumberTheory/Padics/PadicVal.lean (hunk 10 above)
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:486]: Renamed to `sum_gt_of_gt` to conform with`sum_pos_of_pos` right above it.

File: Counterexamples/HarmonicNotInteger.lean [hunk 11]
```diff
@@ -0,0 +1,161 @@
...
+
+/-- The nth-harmonic number defined as a finset sum of consecutive reciprocals. -/
+def harmonic : ℕ → ℚ := fun n => ∑ i in Finset.range n, 1 / (i + 1)
+
+lemma harmonic_pos (n : ℕ) (Hn : n ≠ 0) : 0 < harmonic n :=
+  Finset.sum_pos (fun _ _ => div_pos zero_lt_one
+  (by norm_cast; linarith))
+  (by rwa [Finset.nonempty_range_iff])
+
+lemma harmonic_singleton {n c : ℕ} (hc : c ∈ Finset.range n):
```
Comment (alexjbest) [inline Counterexamples/HarmonicNotInteger.lean:32]:
```suggestion
lemma harmonic_singleton {n c : ℕ} (hc : c ∈ Finset.range n) :
```
please change all of these not just the ones I comment on ;)

File: Counterexamples/HarmonicNotInteger.lean [hunk 12]
```diff
@@ -0,0 +1,161 @@
...
+      intro Hden
+      rw [Hden] at this; simp only [padicValNat.one, sub_zero] at this
+      norm_cast
+    refine' neg_of_neg_pos _
+    have hx : (1 : ℚ) < 2 := by norm_num
+    rw [← zpow_lt_iff_lt hx]
+    simpa only [zpow_zero]
+
+
+lemma padicValRat_2_pow (r : ℕ) : padicValRat 2 (1 / 2^r) = -r := by
```
Comment (alexjbest) [inline Counterexamples/HarmonicNotInteger.lean:70]: we tend not to use numbers in names but instead spell them out

Comment (alexjbest) [reply Counterexamples/HarmonicNotInteger.lean]: That said surely this lemma has nothing to do with two specificly? and could be generalized to any p?

File: Counterexamples/HarmonicNotInteger.lean (hunk 11 above)
Comment (kodyvajjha) [reply Counterexamples/HarmonicNotInteger.lean]: haha yes, got all of them :)

File: Counterexamples/HarmonicNotInteger.lean (hunk 12 above)
Comment (kodyvajjha) [reply Counterexamples/HarmonicNotInteger.lean]: yes but i really only needed 2-adic valuations in this proof, but this was more of a local lemma specific to this file which i needed in the proofs below.

Comment (kodyvajjha) [reply Counterexamples/HarmonicNotInteger.lean]: (but i can generalize it)

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 13]
```diff
@@ -0,0 +1,155 @@
...
+  rw [← Finset.card_range n, ← Finset.card_singleton c, Hnot]
+
+lemma harmonic_singleton_ne_zero {c n : ℕ} (hn : 2 ≤ n) :
+    ∑ x in Finset.range n \ {c}, 1 / (x + 1 : ℚ) ≠ 0 := by
+  refine' ne_of_gt <| Finset.sum_pos (fun i _ => div_pos zero_lt_one _)
+    (finset_range_sdiff_singleton_nonempty hn)
+  norm_cast; simp only [add_pos_iff, or_true]
+
+/-- If a rational is not a 2-adic integer, it is not an integer. -/
+theorem not_int_of_not_padic_int {a : ℚ} (H : 1 < padicNorm 2 a) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:47]: Can you generalize this to arbitrary primes and move this to the padic norm file?

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 14]
```diff
@@ -0,0 +1,155 @@
...
+    ¬ a.isInt := by
+  suffices : a.den ≠ 1; simpa [Rat.isInt]
+  by_cases h : a = 0
+  · subst h; contradiction
+  · unfold padicNorm at H
+    split_ifs at H; contradiction
+    suffices padicValRat 2 a < 0 by
+      unfold padicValRat at this
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:55]: You should think about whether this unfolding is due to missing API.

File: Counterexamples/HarmonicNotInteger.lean (hunk 12 above)
Comment (alexjbest) [reply Counterexamples/HarmonicNotInteger.lean]: Mathlib philosophy is really to try and avoid local lemmas that are only useful once, especially when the generalization is easy and the lemma could be useful to someone else at some point

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 15]
```diff
@@ -0,0 +1,155 @@
...
+lemma padicValRat_two_pow_div (r : ℕ) : padicValRat 2 (1 / 2^r) = -r := by
+  rw [← padicValRat.self_pow_div (p := 2) (r := r)]
+  simp only [one_div, Nat.cast_ofNat]
+
+/-- For `i` less than `n`, `2^Nat.log 2 n` does not divide `i` unless `i` is equal to it. -/
+lemma nat_log_not_dvd {n i : ℕ} (Hi₁ : 0 < i) (Hi₂ : i ≠ 2 ^ Nat.log 2 n) (Hi₃ : i ≤ n) :
+    ¬ 2^(Nat.log 2 n) ∣ i := by
+  rintro ⟨c,Hc⟩
+  have Hle : n < 2 ^ (Nat.log 2 n + 1) := Nat.lt_pow_succ_log_self (by simp) n
+  have Hpow : 2 ^ Nat.log 2 n * 2 = 2 ^(Nat.log 2 n + 1) := by exact rfl
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:73]:
```suggestion
  have Hpow : 2 ^ Nat.log 2 n * 2 = 2 ^ (Nat.log 2 n + 1) := by exact rfl
```
also does this need to be `by exact rfl`, does `rfl` the proof term work instead?

File: Counterexamples/HarmonicNotInteger.lean (hunk 12 above)
Comment (aidmandorky) [reply Counterexamples/HarmonicNotInteger.lean]: yes, the lemma is generalized in 38884190410085716619b1cf03d126b033546b90.

Comment (kodyvajjha) [reply Counterexamples/HarmonicNotInteger.lean]: Yes, that lemma is generalized in 38884190410085716619b1cf03d126b033546b90.

Comment (alexjbest) [reply Counterexamples/HarmonicNotInteger.lean]: Yeah I was just trying to explain a bit as you sounded unconvinced of the merits of generalizing!

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 16]
```diff
@@ -0,0 +1,155 @@
...
+https://kconrad.math.uconn.edu/blurbs/gradnumthy/padicharmonicsum.pdf
+
+-/
+
+open BigOperators
+
+/-- The nth-harmonic number defined as a finset sum of consecutive reciprocals. -/
+def harmonic : ℕ → ℚ := fun n => ∑ i in Finset.range n, 1 / (i + 1)
+
+lemma harmonic_pos (n : ℕ) (Hn : n ≠ 0) : 0 < harmonic n :=
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:24]:
```suggestion
lemma harmonic_pos {n : ℕ} (Hn : n ≠ 0) : 0 < harmonic n :=
```
an argument should normally be implicit when followed by another argument that pins it down. in this case this probably means one of the uses below will break but that should be easily fixable

Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean]: thanks! missed that one

File: Mathlib/NumberTheory/Padics/Harmonic.lean (hunk 13 above)
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean]: yep, done and moved

File: Mathlib/NumberTheory/Padics/Harmonic.lean (hunk 14 above)
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean]: perhaps! i'm not really sure. changing that to `dsimp [padicValRat]` or `simp only [padicValRat]` also works. presumably those are ok? i really just need to unfold the definition once in that subproof...

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 17]
```diff
@@ -431,6 +431,47 @@ theorem min_le_padicValRat_add {q r : ℚ} (hqr : q + r ≠ 0) :
...
+    (hq : q ≠ 0) (hr : r ≠ 0) (hval : padicValRat p q < padicValRat p r) :
+    padicValRat p (q + r) = padicValRat p q := by
+  rw [min_eq_padicValRat_add hqr hq hr (ne_of_lt hval),min_eq_left (le_of_lt hval)]
+
+lemma add_lt_of_lt {q r₁ r₂ : ℚ} (hqr : r₁ + r₂ ≠ 0)
+    (hval₁ : padicValRat p q < padicValRat p r₁) (hval₂ : padicValRat p q < padicValRat p r₂) :
+    padicValRat p q < padicValRat p (r₁ + r₂) :=
+  lt_of_lt_of_le (lt_min hval₁ hval₂) (padicValRat.min_le_padicValRat_add hqr)
+
+lemma self_pow_div (r : ℕ) :
```
[the remark this answers is not in the document]
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:468]: done, thanks

File: Mathlib/NumberTheory/Padics/PadicNorm.lean [hunk 18]
```diff
@@ -305,6 +305,24 @@ theorem nat_lt_one_iff (m : ℕ) : padicNorm p m < 1 ↔ p ∣ m := by
   rw [← Int.coe_nat_dvd, ← int_lt_one_iff, Int.cast_ofNat]
 #align padic_norm.nat_lt_one_iff padicNorm.nat_lt_one_iff
 
+/-- If a rational is not a p-adic integer, it is not an integer. -/
+theorem not_int_of_not_padic_int (p : ℕ) {a : ℚ} [hp : Fact (Nat.Prime p)]
+  (H : 1 < padicNorm p a) : ¬ a.isInt := by
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/PadicNorm.lean:310]:
```suggestion
    (H : 1 < padicNorm p a) : ¬ a.isInt := by
```

File: Mathlib/NumberTheory/Padics/Harmonic.lean (hunk 14 above)
Comment (tb65536) [reply Mathlib/NumberTheory/Padics/Harmonic.lean]: But it seems like some of this definition unfolding is in order to use the formula for `padicNorm` or to prove that `padicValRat` is negative. Could those be separate lemmas?

Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean]: I am adding a 
```lean
lemma padicValRat_def (p : ℕ) (q : ℚ) :
  padicValRat p q = padicValInt p q.num - padicValNat p q.den
    := rfl
```

**Comment by kodyvajjha** [comment]
i think i've addressed most of the comments - just waiting now for the build to turn green, thanks everyone!

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 19]
```diff
@@ -448,6 +494,20 @@ theorem sum_pos_of_pos {n : ℕ} {F : ℕ → ℚ} (hF : ∀ i, i < n → 0 < pa
         exact hF _ (lt_trans hi (lt_add_one _))
 #align padic_val_rat.sum_pos_of_pos padicValRat.sum_pos_of_pos
 
+/-- If the p-adic valuation of a finite set of positive rationals is greater than a given rational
+number, then the p-adic valuation of their sum is also greater than the same rational number. -/
+theorem sum_gt_of_gt {p j : ℕ} [hp : Fact (Nat.Prime p)] {F : ℕ → ℚ} {S : Finset ℕ}
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:499]:
```suggestion
theorem sum_lt_of_lt {p j : ℕ} [hp : Fact (Nat.Prime p)] {F : ℕ → ℚ} {S : Finset ℕ}
```

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 20]
```diff
@@ -0,0 +1,139 @@
...
+   (padicValRat_ge_neg_nat_log_ne Hq₁ Hq₂ Hq₃).symm)
+
+lemma two_pow_log_mem_range {n : ℕ} (hn : 2 ≤ n) :
+    2 ^ (Nat.log 2 n) - 1 ∈ Finset.range n :=
+  Finset.mem_range.mpr <| lt_of_lt_of_le (Nat.sub_lt (pow_pos zero_lt_two _) zero_lt_one)
+  (Nat.pow_log_le_self 2 (by linarith))
+
+/-- The 2-adic valuation of the n-th harmonic number is the negative of the logarithm
+    of n. -/
+theorem harmonic_two_adicValRat {n : ℕ} (Hn : 2 ≤ n) :
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:103]:
```suggestion
theorem padicValRat_two_harmonic {n : ℕ} (Hn : 2 ≤ n) :
```

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 21]
```diff
@@ -0,0 +1,139 @@
...
+
+lemma padicValRat_ge_neg_Nat_log_lt (n q : ℕ) (Hq₁ : 0 < q)
+  (Hq₂ : q ≤ n) (Hq₃ : q ≠ 2 ^ Nat.log 2 n) :
+    padicValRat 2 (1 / 2 ^ Nat.log 2 n) < padicValRat 2 (1 / q) := by
+  rw [padicValRat_two_pow_div]
+  exact (lt_of_le_of_ne
+   (padicValRat_ge_neg_Nat_log_ge (p := 2) Hq₂)
+   (padicValRat_ge_neg_nat_log_ne Hq₁ Hq₂ Hq₃).symm)
+
+lemma two_pow_log_mem_range {n : ℕ} (hn : 2 ≤ n) :
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:96]:
```suggestion
lemma two_pow_log_sub_one_mem_range {n : ℕ} (hn : 2 ≤ n) :
```

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 22]
```diff
@@ -0,0 +1,139 @@
...
+    _ = i := Hc.symm
+
+lemma padicValRat_ge_neg_nat_log_ne {n q : ℕ}(Hq₁ : 0 < q)
+  (Hq₂ : q ≤ n)(Hq₃ : q ≠ 2 ^ Nat.log 2 n) :
+    padicValRat 2 (1 / q) ≠ -Nat.log 2 n := by
+  rw [one_div, padicValRat.inv, padicValRat.of_nat, ne_eq, neg_inj, Nat.cast_inj]
+  exact (fun Hnot => nat_log_not_dvd (n := n) Hq₁ Hq₃ Hq₂
+    (Hnot ▸ pow_padicValNat_dvd (p := 2) (n := q)))
+
+lemma padicValRat_ge_neg_Nat_log_ge {p n q : ℕ}[hp : Fact (Nat.Prime p)](Hq : q ≤ n) :
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:83]:
```suggestion
lemma padicValRat_ge_neg_Nat_log_ge {p n q : ℕ} [hp : Fact (Nat.Prime p)] (Hq : q ≤ n) :
```
and the name should be changed to the le version (likewise below)

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 23]
```diff
@@ -0,0 +1,139 @@
...
+    _ = i := Hc.symm
+  · rw [mul_add, ← mul_assoc, Hpow, mul_one] at Hc
+    suffices Hnk : n < i by linarith
+    calc n < 2 ^ (Nat.log 2 n + 1) := Hle
+    _ ≤  2 ^ (Nat.log 2 n + 1)*k := Nat.le_mul_of_pos_right (Nat.pos_of_ne_zero h)
+    _ < 2 ^ (Nat.log 2 n + 1)*k + 2 ^ Nat.log 2 n := by linarith
+    _ = i := Hc.symm
+
+lemma padicValRat_ge_neg_nat_log_ne {n q : ℕ}(Hq₁ : 0 < q)
+  (Hq₂ : q ≤ n)(Hq₃ : q ≠ 2 ^ Nat.log 2 n) :
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:77]:
```suggestion
lemma padicValRat_ge_neg_nat_log_ne {n q : ℕ} (Hq₁ : 0 < q)
  (Hq₂ : q ≤ n) (Hq₃ : q ≠ 2 ^ Nat.log 2 n) :
```

File: Mathlib/NumberTheory/Padics/Harmonic.lean (hunk 22 above)
Comment (alexjbest) [reply Mathlib/NumberTheory/Padics/Harmonic.lean:83]: also Nat should be lowercase in the name

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 24]
```diff
@@ -0,0 +1,139 @@
...
+  Finset.sum_pos (fun _ _ => div_pos zero_lt_one (by norm_cast; linarith))
+  (by rwa [Finset.nonempty_range_iff])
+
+lemma harmonic_singleton {n c : ℕ} (hc : c ∈ Finset.range n) :
+    harmonic n = 1 / (c + 1) + ∑ x in Finset.range n \ {c}, 1 / ((x : ℚ) + 1) := by
+  dsimp [harmonic]
+  rwa [add_comm, Finset.sum_eq_sum_diff_singleton_add (i := c)]
+
+lemma finset_range_sdiff_singleton_nonempty {c n : ℕ} (hn : 2 ≤ n) :
+    Finset.Nonempty (Finset.range n \ {c}) := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:34]: This feels like it should be a quick consequence of two simpler lemmas, one saying `(Finset.range n).Nontrivial` and one saying that `s.Nontrivial → (s \ {c}).Nonempty`. And can you move it to an earlier file?

File: Mathlib/NumberTheory/Padics/PadicNorm.lean [hunk 25]
```diff
@@ -305,6 +305,24 @@ theorem nat_lt_one_iff (m : ℕ) : padicNorm p m < 1 ↔ p ∣ m := by
...
+    split_ifs at H; contradiction
+    suffices padicValRat p a < 0 by
+      rw [padicValRat_def] at this
+      intro Hden
+      rw [Hden] at this; simp only [padicValNat.one, sub_zero] at this
+      norm_cast
+    refine' neg_of_neg_pos _
+    have hx : (1 : ℚ) < p := by norm_cast; exact Nat.Prime.one_lt hp.elim
+    rw [← zpow_lt_iff_lt hx]
+    simpa only [zpow_zero]
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicNorm.lean:324]: This feels simpler. That being said, I feel like `Rat.isInt` isn't quite the right tool for the job, since it is `Bool` and not `Prop`.
```suggestion
lemma _root_.Rat.isInt.eq_num {q : ℚ} (h : q.isInt) : q = q.num := by
  rw [Rat.isInt, Nat.beq_eq_true_eq] at h
  exact (Rat.coe_int_num_of_den_eq_one h).symm

/-- If a rational is not a p-adic integer, it is not an integer. -/
theorem not_int_of_not_padic_int (p : ℕ) {a : ℚ} [hp : Fact (Nat.Prime p)]
    (H : 1 < padicNorm p a) : ¬ a.isInt := by
  contrapose! H
  rw [Rat.isInt.eq_num H]
  apply padicNorm.of_int
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 26]
```diff
@@ -202,6 +202,10 @@ def padicValRat (p : ℕ) (q : ℚ) : ℤ :=
   padicValInt p q.num - padicValNat p q.den
 #align padic_val_rat padicValRat
 
+lemma padicValRat_def (p : ℕ) (q : ℚ) :
+  padicValRat p q = padicValInt p q.num - padicValNat p q.den
+    := rfl
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:207]:
```suggestion
lemma padicValRat_def (p : ℕ) (q : ℚ) :
    padicValRat p q = padicValInt p q.num - padicValNat p q.den :=
  rfl
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 27]
```diff
@@ -431,6 +435,48 @@ theorem min_le_padicValRat_add {q r : ℚ} (hqr : q + r ≠ 0) :
...
+    suffices Haux : min (padicValRat p (q + r)) (padicValRat p r) ≤ padicValRat p q by
+      rw [min_def] at Haux
+      split_ifs at Haux with Hspl
+      · assumption
+      · linarith
+    calc padicValRat p q = padicValRat p ((q + r) - r) := by congr; simp
+    _ ≥ min (padicValRat p (q + r)) (padicValRat p (-r)) :=
+    ge_iff_le.mp <| le_trans (padicValRat.min_le_padicValRat_add (q := q+r) (r := -r) (by simpa))
+      (by rw [add_neg_cancel_right, add_sub_cancel])
+    _ = min (padicValRat p (q + r)) (padicValRat p r) := by rw [padicValRat.neg]
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:459]:
```suggestion
  have h1 := min_le_padicValRat_add (p := p) hqr
  have h2 := min_le_padicValRat_add (p := p) (ne_of_eq_of_ne (add_neg_cancel_right q r) hq)
  have h3 := min_le_padicValRat_add (p := p) (ne_of_eq_of_ne (add_neg_cancel_right r q) hr)
  rw [add_neg_cancel_right, padicValRat.neg] at h2 h3
  rw [add_comm] at h3
  refine' le_antisymm (le_min _ _) h1
  · contrapose! h2
    rw [min_eq_right h2.le] at h3
    exact lt_min h2 (lt_of_le_of_ne h3 hval)
  · contrapose! h3
    rw [min_eq_right h3.le] at h2
    exact lt_min h3 (lt_of_le_of_ne h2 hval.symm)
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 28]
```diff
@@ -431,6 +435,48 @@ theorem min_le_padicValRat_add {q r : ℚ} (hqr : q + r ≠ 0) :
   (fun h => by rw [min_eq_right h, add_comm]; exact le_padicValRat_add_of_le (by rwa [add_comm]) h)
 #align padic_val_rat.min_le_padic_val_rat_add padicValRat.min_le_padicValRat_add
 
+/-- Ultrametric property of a p-adic valuation. -/
+lemma min_eq_padicValRat_add {q r : ℚ} (hqr : q + r ≠ 0) (hq : q ≠ 0) (hr : r ≠ 0)
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:439]: Perhaps this lemma should be called something like `add_eq_min`?

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 29]
```diff
@@ -431,6 +435,48 @@ theorem min_le_padicValRat_add {q r : ℚ} (hqr : q + r ≠ 0) :
...
+    ge_iff_le.mp <| le_trans (padicValRat.min_le_padicValRat_add (q := q+r) (r := -r) (by simpa))
+      (by rw [add_neg_cancel_right, add_sub_cancel])
+    _ = min (padicValRat p (q + r)) (padicValRat p r) := by rw [padicValRat.neg]
+
+lemma add_eq_of_lt {q r : ℚ} (hqr : q + r ≠ 0)
+    (hq : q ≠ 0) (hr : r ≠ 0) (hval : padicValRat p q < padicValRat p r) :
+    padicValRat p (q + r) = padicValRat p q := by
+  rw [min_eq_padicValRat_add hqr hq hr (ne_of_lt hval),min_eq_left (le_of_lt hval)]
+
+lemma add_lt_of_lt {q r₁ r₂ : ℚ} (hqr : r₁ + r₂ ≠ 0)
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:466]: Maybe this lemma should be called `lt_add_of_lt`?

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 30]
```diff
@@ -431,6 +435,48 @@ theorem min_le_padicValRat_add {q r : ℚ} (hqr : q + r ≠ 0) :
...
+  lt_of_lt_of_le (lt_min hval₁ hval₂) (padicValRat.min_le_padicValRat_add hqr)
+
+@[simp]
+lemma self_pow_div (r : ℕ) :
+      padicValRat p ((p : ℚ) ^ r)⁻¹ = -r := by
+  norm_cast; simp only [Nat.cast_pow]
+  rw [padicValRat.inv, neg_inj, padicValRat.pow,
+    padicValRat.self (Nat.Prime.one_lt hp.elim), mul_one]
+  simp only [ne_eq, Nat.cast_eq_zero]
+  exact Nat.Prime.ne_zero hp.elim
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:478]:
```suggestion
lemma self_pow_div (r : ℕ) : padicValRat p ((p : ℚ) ^ r)⁻¹ = -r := by
  rw [padicValRat.inv, neg_inj, padicValRat.pow (Nat.cast_ne_zero.mpr hp.elim.ne_zero),
      padicValRat.self hp.elim.one_lt, mul_one]
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 31]
```diff
@@ -535,6 +595,24 @@ theorem padicValNat_primes {q : ℕ} [hp : Fact p.Prime] [hq : Fact q.Prime] (ne
     (not_congr (Iff.symm (prime_dvd_prime_iff_eq hp.1 hq.1))).mp neq
 #align padic_val_nat_primes padicValNat_primes
 
+/-- The p-adic valuation of `n` is less than or equal to its logarithm w.r.t `p`.-/
+lemma le_nat_log (n : ℕ) [hp : Fact (Nat.Prime p)] : padicValNat p n ≤ Nat.log p n := by
+  by_cases (n = 0)
+  · simp only [h, padicValNat.zero, Nat.log_zero_right, le_refl]
+  · refine' Nat.le_log_of_pow_le (Nat.Prime.one_lt hp.elim) _
+    by_contra Hnot; push_neg at Hnot
+    exact h (Nat.eq_zero_of_dvd_of_lt (pow_padicValNat_dvd (p := p) (n := n)) Hnot)
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:604]:
```suggestion
  rcases eq_or_ne n 0 with rfl | h
  · rw [padicValNat.zero, Nat.log_zero_right]
  · refine' Nat.le_log_of_pow_le hp.elim.one_lt _
    exact le_of_dvd (Nat.pos_of_ne_zero h) pow_padicValNat_dvd
```

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 32]
```diff
@@ -0,0 +1,139 @@
...
+      rw [← Hnot] at Hi₂
+      refine' Hi₂ _
+      simp only [add_tsub_cancel_right]
+
+/-- The n-th harmonic number is not an integer for n ≥ 2. -/
+theorem harmonic_not_int {n : ℕ} (Hn : 2 ≤ n) :
+    ¬(harmonic n).isInt := by
+  refine' padicNorm.not_int_of_not_padic_int 2 _
+  dsimp [padicNorm]
+  rw [if_neg (ne_of_gt <| harmonic_pos (by linarith))]
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:135]:
```suggestion
  rw [padicNorm.eq_zpow_of_nonzero (harmonic_pos (by linarith)).ne']
```

**Comment by tb65536** [comment]
It seems like induction can be used to simplify the main proof:
```
open BigOperators

/-- The nth-harmonic number defined as a finset sum of consecutive reciprocals. -/
def harmonic : ℕ → ℚ := fun n => ∑ i in Finset.range n, (↑(i + 1))⁻¹

@[simp]
lemma harmonic_zero : harmonic 0 = 0 :=
  rfl

@[simp]
lemma harmonic_succ (n : ℕ) : harmonic (n + 1) = harmonic n + (↑(n + 1))⁻¹ := by
  apply Finset.sum_range_succ

lemma harmonic_pos {n : ℕ} (Hn : n ≠ 0) : 0 < harmonic n :=
  Finset.sum_pos (fun n _ => inv_pos.mpr (Nat.cast_pos.mpr n.succ_pos))
    (Finset.nonempty_range_iff.mpr Hn)

lemma key1 {n : ℕ} (hn : n ≠ 0) : Nat.log 2 n ≠ padicValNat 2 (n + 1) := by
  rw [Ne, Nat.log_eq_iff (by simp [hn])]
  rintro ⟨h1, h2⟩
  rw [← Nat.lt_add_one_iff, ← mul_one (2 ^ _)] at h1
  rw [← Nat.add_one_le_iff, pow_succ'] at h2
  refine' Nat.not_dvd_of_between_consec_multiples h1 (lt_of_le_of_ne' h2 _) pow_padicValNat_dvd
  exact pow_succ_padicValNat_not_dvd n.succ_ne_zero ∘ dvd_of_eq

lemma key2 (n : ℕ) : max (Nat.log 2 n) (padicValNat 2 (n + 1)) = Nat.log 2 (n + 1) := by
  apply le_antisymm (max_le (Nat.le_log_of_pow_le one_lt_two (Nat.pow_log_le_add_one 2 n))
    (Nat.le_log_of_pow_le one_lt_two (Nat.le_of_dvd n.succ_pos pow_padicValNat_dvd)))
  rw [le_max_iff, or_iff_not_imp_left, not_le]
  intro h
  replace h := le_antisymm (Nat.add_one_le_iff.mpr (Nat.lt_pow_of_log_lt one_lt_two h))
    (Nat.pow_log_le_self 2 n.succ_ne_zero)
  rw [h, padicValNat.prime_pow, ← h]

/-- The 2-adic valuation of the n-th harmonic number is the negative of the logarithm
    of n. -/
theorem harmonic_two_adicValRat {n : ℕ} : padicValRat 2 (harmonic n) = -Nat.log 2 n := by
  induction' n with n ih
  · simp
  · rcases eq_or_ne n 0 with rfl | hn
    · simp
    rw [harmonic_succ]
    have key : padicValRat 2 (harmonic n) ≠ padicValRat 2 (↑(n + 1))⁻¹
    · rw [ih, padicValRat.inv, padicValRat.of_nat, Ne, neg_inj, Nat.cast_inj]
      exact key1 hn
    rw [padicValRat.min_eq_padicValRat_add (harmonic_succ n ▸ (harmonic_pos n.succ_ne_zero).ne')
        (harmonic_pos hn).ne' (inv_ne_zero (Nat.cast_ne_zero.mpr n.succ_ne_zero)) key, ih,
        padicValRat.inv, padicValRat.of_nat, min_neg_neg, neg_inj, ← Nat.cast_max, Nat.cast_inj]
    exact key2 n

/-- The n-th harmonic number is not an integer for n ≥ 2. -/
theorem harmonic_not_int {n : ℕ} (h : 1 < n) : ¬(harmonic n).isInt := by
  apply padicNorm.not_int_of_not_padic_int 2
  rw [padicNorm.eq_zpow_of_nonzero (harmonic_pos (ne_zero_of_lt h)).ne',
      harmonic_two_adicValRat, neg_neg, zpow_coe_nat]
  exact one_lt_pow one_lt_two (Nat.log_pos one_lt_two h).ne'
```

**Comment by kodyvajjha** [comment]
@tb65536 Can we just merge this and you can make your changes as a PR later?

File: Mathlib/NumberTheory/Padics/Harmonic.lean (hunk 24 above)
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean:34]: I tried this for a while but gave up. I tried to put this in `Finset.Basic` but the lemmas there don't know `linarith` apparently. This is what I could come up with: 
```lean
lemma finset_range_sdiff_singleton_nonempty {c n : ℕ} (hn : 2 ≤ n) :
    Finset.Nonempty (Finset.range n \ {c}) := by
  rw [Finset.sdiff_nonempty, Finset.subset_singleton_iff, Finset.range_eq_empty_iff, not_or]
  refine' ⟨ne_of_gt <| lt_of_lt_of_le zero_lt_two hn, fun Hnot => _⟩
  have : n = 1 := by rw [← Finset.card_range n, ← Finset.card_singleton c, Hnot]
  simp only [this] at hn
```
Feel free to golf this and commit if you can

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 33]
```diff
@@ -0,0 +1,139 @@
...
+  suffices n = 1 by linarith
+  rw [← Finset.card_range n, ← Finset.card_singleton c, Hnot]
+
+lemma harmonic_singleton_ne_zero {c n : ℕ} (hn : 2 ≤ n) :
+    ∑ x in Finset.range n \ {c}, 1 / (x + 1 : ℚ) ≠ 0 := by
+  refine' ne_of_gt <| Finset.sum_pos (fun i _ => div_pos zero_lt_one _)
+    (finset_range_sdiff_singleton_nonempty hn)
+  norm_cast; simp only [add_pos_iff, or_true]
+
+lemma padicValRat_two_pow_div (r : ℕ) : padicValRat 2 (1 / 2 ^ r) = -r := by
```
[the remark this answers is not in the document]
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean:46]: This is already done in 38884190410085716619b1cf03d126b033546b90. See `padicValRat.self_pow_div`. I use this lemma twice in two proofs below so I factored it out as a local lemma. I can't seem to use `self_pow_div` directly because of an implicit coercion in the proof below.

File: Mathlib/NumberTheory/Padics/Harmonic.lean (hunk 24 above)
Comment (tb65536) [reply Mathlib/NumberTheory/Padics/Harmonic.lean:34]: I mean that you should write two lemmas, one saying `(Finset.range n).Nontrivial` and one saying that `s.Nontrivial → (s \ {c}).Nonempty`. You might need to merge master to get access to `Finset.Nontrivial`.

Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean:34]: Ah okay, that explains it

Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean]: Ok this is done in 6338778d53fbc18e738d3aa359bcfadad45a506d.

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 34]
```diff
@@ -0,0 +1,132 @@
...
+
+Reference:
+https://kconrad.math.uconn.edu/blurbs/gradnumthy/padicharmonicsum.pdf
+
+-/
+
+open BigOperators
+
+/-- The nth-harmonic number defined as a finset sum of consecutive reciprocals. -/
+def harmonic : ℕ → ℚ := fun n => ∑ i in Finset.range n, 1 / (i + 1)
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:22]: I think usually `n⁻¹` is preferred over `1 / n` (analogous to how `-n` is the preferred over `0 - n`).
```suggestion
def harmonic : ℕ → ℚ := fun n => ∑ i in Finset.range n, (↑(i + 1))⁻¹
```

File: Mathlib/Data/Finset/Basic.lean [hunk 35]
```diff
@@ -2325,6 +2325,12 @@ theorem sdiff_singleton_eq_self (ha : a ∉ s) : s \ {a} = s :=
   sdiff_eq_self_iff_disjoint.2 <| by simp [ha]
 #align finset.sdiff_singleton_eq_self Finset.sdiff_singleton_eq_self
 
+theorem sdiff_singleton_nonempty_of_nontrivial {c : α} {s : Finset α} (hS : s.Nontrivial) :
```
Comment (tb65536) [inline Mathlib/Data/Finset/Basic.lean:2328]: This allows for dot notation.
```suggestion
theorem Nontrivial.sdiff_singleton_nonempty {c : α} {s : Finset α} (hS : s.Nontrivial) :
```

File: Mathlib/NumberTheory/Padics/Harmonic.lean (hunk 34 above)
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean:22]: But we also have: https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/PSeries.html#Real.tendsto_sum_range_one_div_nat_succ_atTop which does `1/(i+1)`.

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 36]
```diff
@@ -0,0 +1,132 @@
...
+
+lemma harmonic_pos {n : ℕ} (Hn : n ≠ 0) : 0 < harmonic n :=
+  Finset.sum_pos (fun _ _ => div_pos zero_lt_one (by norm_cast; linarith))
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:25]: (And switching to `n⁻¹` should in theory make some proofs a bit tidier)
```suggestion
  Finset.sum_pos (fun _ _ => inv_pos.mpr (by norm_cast; linarith))
```

Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean:25]: It also breaks other proofs down below which I'm quite weary of fixing... If this is a matter of taste, I'd prefer to leave it as is. Other places in mathlib do use `1/x` as I've linked to above.

Comment (tb65536) [reply Mathlib/NumberTheory/Padics/Harmonic.lean:25]: I opened a discussion on Zulip: https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.237319.20harmonic.20number.20not.20an.20integer

Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean]: OK, Made the change. It wasn't that bad, actually.

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 37]
```diff
@@ -0,0 +1,134 @@
...
+    harmonic n = 1 / (c + 1) + ∑ x in Finset.range n \ {c}, 1 / ((x : ℚ) + 1) := by
+  dsimp [harmonic]
+  simp only [Nat.cast_add, Nat.cast_one, one_div, Finset.mem_range, not_lt,
+    Finset.singleton_subset_iff]
+  rwa [add_comm, Finset.sum_eq_sum_diff_singleton_add (i := c)]
+
+lemma harmonic_singleton_ne_zero {c n : ℕ} (hn : 2 ≤ n) :
+    ∑ x in Finset.range n \ {c}, 1 / (x + 1 : ℚ) ≠ 0 := by
+  refine' ne_of_gt <| Finset.sum_pos (fun i _ => div_pos zero_lt_one _)
+    (Finset.Nontrivial.sdiff_singleton_nonempty <| Finset.range_nontrivial hn)
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:38]: Does this work?
```suggestion
    (Finset.range_nontrivial hn).sdiff_singleton_nonempty
```

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 38]
```diff
@@ -0,0 +1,134 @@
...
+lemma two_pow_log_sub_one_mem_range {n : ℕ} (hn : 2 ≤ n) :
+    2 ^ (Nat.log 2 n) - 1 ∈ Finset.range n :=
+  Finset.mem_range.mpr <| lt_of_lt_of_le (Nat.sub_lt (pow_pos zero_lt_two _) zero_lt_one)
+  (Nat.pow_log_le_self 2 (by linarith))
+
+/-- The 2-adic valuation of the n-th harmonic number is the negative of the logarithm
+    of n. -/
+theorem padicValRat_two_harmonic {n : ℕ} (Hn : 2 ≤ n) :
+    padicValRat 2 (harmonic n) = -Int.log 2 (n : ℚ) := by
+  rw [Int.log_natCast, harmonic_singleton (two_pow_log_sub_one_mem_range Hn)]
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:100]:
```suggestion
    padicValRat 2 (harmonic n) = -Nat.log 2 n := by
  rw [harmonic_singleton (two_pow_log_sub_one_mem_range Hn)]
```

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 39]
```diff
@@ -0,0 +1,134 @@
...
+
+/-- The n-th harmonic number is not an integer for n ≥ 2. -/
+theorem harmonic_not_int {n : ℕ} (Hn : 2 ≤ n) :
+    ¬(harmonic n).isInt := by
+  refine' padicNorm.not_int_of_not_padic_int 2 _
+  rw [padicNorm.eq_zpow_of_nonzero (harmonic_pos (by linarith)).ne']
+  refine' one_lt_zpow one_lt_two _ (lt_neg.mp _)
+  rw [neg_zero, padicValRat_two_harmonic Hn,Int.log_natCast, Left.neg_neg_iff,
+    Nat.cast_pos, Nat.log_pos_iff]
+  exact ⟨Hn,one_lt_two⟩
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:134]:
```suggestion
theorem harmonic_not_int {n : ℕ} (h : 2 ≤ n) : ¬ (harmonic n).isInt := by
  apply padicNorm.not_int_of_not_padic_int 2
  rw [padicNorm.eq_zpow_of_nonzero (harmonic_pos (ne_zero_of_lt h)).ne',
      padicValRat_two_harmonic h, neg_neg, zpow_coe_nat]
  exact one_lt_pow one_lt_two (Nat.log_pos one_lt_two h).ne'
```

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 40]
```diff
@@ -0,0 +1,134 @@
...
+    simp only [Finset.mem_range, Finset.mem_sdiff, Finset.mem_singleton,
+      Finset.singleton_subset_iff, pow_pos, Nat.cast_pred, Nat.cast_pow,
+      sub_add_cancel, and_imp,gt_iff_lt] at this
+    refine' this (fun i Hi₁ Hi₂ => _) (fun i => div_pos zero_lt_one (by norm_cast; linarith))
+    · have := padicValRat_ge_neg_Nat_log_lt (n := n) (i+1)
+      simp only [Nat.cast_add, Nat.cast_one] at this
+      refine' this (by linarith) (by linarith) (fun Hnot => _)
+      rw [← Hnot] at Hi₂
+      refine' Hi₂ _
+      simp only [add_tsub_cancel_right]
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:124]:
```suggestion
lemma Nat.log_ne_padicValNat_succ {n : ℕ} (hn : n ≠ 0) : log 2 n ≠ padicValNat 2 (n + 1) := by
  rw [Ne, log_eq_iff (by simp [hn])]
  rintro ⟨h1, h2⟩
  rw [← lt_add_one_iff, ← mul_one (2 ^ _)] at h1
  rw [← add_one_le_iff, pow_succ] at h2
  refine' not_dvd_of_between_consec_multiples h1 (lt_of_le_of_ne' h2 _) pow_padicValNat_dvd
  exact pow_succ_padicValNat_not_dvd n.succ_ne_zero ∘ dvd_of_eq

lemma Nat.max_log_padicValNat_succ_eq_log_succ (n : ℕ) :
    max (log 2 n) (padicValNat 2 (n + 1)) = log 2 (n + 1) := by
  apply le_antisymm (max_le (le_log_of_pow_le one_lt_two (pow_log_le_add_one 2 n))
    (le_log_of_pow_le one_lt_two (le_of_dvd n.succ_pos pow_padicValNat_dvd)))
  rw [le_max_iff, or_iff_not_imp_left, not_le]
  intro h
  replace h := le_antisymm (add_one_le_iff.mpr (lt_pow_of_log_lt one_lt_two h))
    (pow_log_le_self 2 n.succ_ne_zero)
  rw [h, padicValNat.prime_pow, ← h]

/-- The 2-adic valuation of the n-th harmonic number is the negative of the logarithm
    of n. -/
theorem padicValRat_two_harmonic {n : ℕ} : padicValRat 2 (harmonic n) = -Nat.log 2 n := by
  induction' n with n ih
  · simp
  · rcases eq_or_ne n 0 with rfl | hn
    · simp
    rw [harmonic_succ]
    have key : padicValRat 2 (harmonic n) ≠ padicValRat 2 (↑(n + 1))⁻¹
    · rw [ih, padicValRat.inv, padicValRat.of_nat, Ne, neg_inj, Nat.cast_inj]
      exact Nat.log_ne_padicValNat_succ hn
    rw [padicValRat.add_eq_min (harmonic_succ n ▸ (harmonic_pos n.succ_ne_zero).ne')
        (harmonic_pos hn).ne' (inv_ne_zero (Nat.cast_ne_zero.mpr n.succ_ne_zero)) key, ih,
        padicValRat.inv, padicValRat.of_nat, min_neg_neg, neg_inj, ← Nat.cast_max, Nat.cast_inj]
    exact Nat.max_log_padicValNat_succ_eq_log_succ n
```

**Review by tb65536 — COMMENTED** [review]
I do suggest you consider proving `padicValRat_two_harmonic` by induction. It's shorter and avoids the hypothesis `2 ≤ n`.

File: Mathlib/NumberTheory/Padics/Harmonic.lean (hunk 40 above)
Comment (tb65536) [reply Mathlib/NumberTheory/Padics/Harmonic.lean:124]: You would also need these simp-lemmas:
```
@[simp]
lemma harmonic_zero : harmonic 0 = 0 :=
  rfl

@[simp]
lemma harmonic_succ (n : ℕ) : harmonic (n + 1) = harmonic n + (↑(n + 1))⁻¹ := by
  apply Finset.sum_range_succ
```

Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/Harmonic.lean]: Done! Thanks

File: Mathlib/NumberTheory/Padics/PadicNorm.lean [hunk 41]
```diff
@@ -305,6 +305,16 @@ theorem nat_lt_one_iff (m : ℕ) : padicNorm p m < 1 ↔ p ∣ m := by
   rw [← Int.coe_nat_dvd, ← int_lt_one_iff, Int.cast_ofNat]
 #align padic_norm.nat_lt_one_iff padicNorm.nat_lt_one_iff
 
+lemma _root_.Rat.isInt.eq_num {q : ℚ} (h : q.isInt) : q = q.num := by
+  rw [Rat.isInt, Nat.beq_eq_true_eq] at h
+  exact (Rat.coe_int_num_of_den_eq_one h).symm
+/-- If a rational is not a p-adic integer, it is not an integer. -/
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicNorm.lean:311]:
```suggestion
  exact (Rat.coe_int_num_of_den_eq_one h).symm

/-- If a rational is not a p-adic integer, it is not an integer. -/
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 42]
```diff
@@ -535,6 +585,23 @@ theorem padicValNat_primes {q : ℕ} [hp : Fact p.Prime] [hq : Fact q.Prime] (ne
     (not_congr (Iff.symm (prime_dvd_prime_iff_eq hp.1 hq.1))).mp neq
 #align padic_val_nat_primes padicValNat_primes
 
+/-- The p-adic valuation of `n` is less than or equal to its logarithm w.r.t `p`.-/
+lemma le_nat_log (n : ℕ) [hp : Fact (Nat.Prime p)] : padicValNat p n ≤ Nat.log p n := by
+  rcases eq_or_ne n 0 with rfl | h
+  · rw [padicValNat.zero, Nat.log_zero_right]
+  · refine' Nat.le_log_of_pow_le hp.elim.one_lt _
+    exact le_of_dvd (Nat.pos_of_ne_zero h) pow_padicValNat_dvd
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:593]:
```suggestion
lemma padicValNat_le_nat_log (n : ℕ) : padicValNat p n ≤ Nat.log p n := by
  rcases n with _ | n
  · simp
  rcases p with _ | _ | p
  · simp
  · simp
  exact Nat.le_log_of_pow_le p.one_lt_succ_succ (le_of_dvd n.succ_pos pow_padicValNat_dvd)
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 43]
```diff
@@ -535,6 +585,23 @@ theorem padicValNat_primes {q : ℕ} [hp : Fact p.Prime] [hq : Fact q.Prime] (ne
...
+
+lemma le_nat_log_of_le {n₁ n₂ : ℕ} [Fact (Nat.Prime p)] (hn : n₁ ≤ n₂) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:595]: These last two lemmas are no longer used.

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 44]
```diff
@@ -0,0 +1,75 @@
...
+  rintro ⟨h1, h2⟩
+  rw [← lt_add_one_iff, ← mul_one (2 ^ _)] at h1
+  rw [← add_one_le_iff, pow_succ] at h2
+  refine' not_dvd_of_between_consec_multiples h1 (lt_of_le_of_ne' h2 _) pow_padicValNat_dvd
+  exact pow_succ_padicValNat_not_dvd n.succ_ne_zero ∘ dvd_of_eq
+
+lemma Nat.max_log_padicValNat_succ_eq_log_succ (n : ℕ) :
+    max (log 2 n) (padicValNat 2 (n + 1)) = log 2 (n + 1) := by
+  apply le_antisymm (max_le (le_log_of_pow_le one_lt_two (pow_log_le_add_one 2 n))
+    (le_log_of_pow_le one_lt_two (le_of_dvd n.succ_pos pow_padicValNat_dvd)))
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:47]:
```suggestion
    (padicValNat_le_nat_log (n + 1)))
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean (hunk 43 above)
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:597]: Yeah but they'd be good to have around.

Comment (tb65536) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:597]: The second one seems potentially useful, but this first lemma just gives a weaker upper bound than the preceding lemma, I think?

File: Mathlib/NumberTheory/Padics/Harmonic.lean [hunk 45]
```diff
@@ -0,0 +1,75 @@
...
+
+@[simp]
+lemma harmonic_succ (n : ℕ) : harmonic (n + 1) = harmonic n + (↑(n + 1))⁻¹ := by
+  apply Finset.sum_range_succ
+
+lemma harmonic_pos {n : ℕ} (Hn : n ≠ 0) : 0 < harmonic n :=
+  Finset.sum_pos (fun _ _ => inv_pos.mpr (by norm_cast; linarith))
+  (by rwa [Finset.nonempty_range_iff])
+
+lemma Nat.log_ne_padicValNat_succ {n : ℕ} (hn : n ≠ 0) : log 2 n ≠ padicValNat 2 (n + 1) := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/Harmonic.lean:36]: This and the following lemma should probably be moved earlier.

File: Mathlib/NumberTheory/Padics/PadicVal.lean (hunk 43 above)
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:597]: I use the first lemma in the proof of the second, so might as well factor it out into its own lemma?

Comment (tb65536) [reply Mathlib/NumberTheory/Padics/PadicVal.lean]: Sorry, I meant that `le_nat_log_of_le` doesn't improve on the upper bound in `padicValNat_le_nat_log`, so I'm not sure whether it makes sense to keep `le_nat_log_of_le`.

Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/PadicVal.lean]: Ah okay, I agree. I just removed it.

File: Mathlib/Data/Finset/Basic.lean [hunk 46]
```diff
@@ -2325,6 +2325,12 @@ theorem sdiff_singleton_eq_self (ha : a ∉ s) : s \ {a} = s :=
   sdiff_eq_self_iff_disjoint.2 <| by simp [ha]
 #align finset.sdiff_singleton_eq_self Finset.sdiff_singleton_eq_self
 
+theorem Nontrivial.sdiff_singleton_nonempty {c : α} {s : Finset α} (hS : s.Nontrivial) :
+    (s \ {c}).Nonempty := by
+  rw [Finset.sdiff_nonempty, Finset.subset_singleton_iff]
+  push_neg
+  exact ⟨by rintro rfl; exact Finset.not_nontrivial_empty hS, Finset.Nontrivial.ne_singleton hS⟩
```
Comment (tb65536) [inline Mathlib/Data/Finset/Basic.lean:2332]:
```suggestion
  exact ⟨by rintro rfl; exact Finset.not_nontrivial_empty hS, hS.ne_singleton⟩
```

File: Mathlib/NumberTheory/Padics/PadicNorm.lean [hunk 47]
```diff
@@ -305,6 +305,17 @@ theorem nat_lt_one_iff (m : ℕ) : padicNorm p m < 1 ↔ p ∣ m := by
   rw [← Int.coe_nat_dvd, ← int_lt_one_iff, Int.cast_ofNat]
 #align padic_norm.nat_lt_one_iff padicNorm.nat_lt_one_iff
 
+lemma _root_.Rat.isInt.eq_num {q : ℚ} (h : q.isInt) : q = q.num := by
+  rw [Rat.isInt, Nat.beq_eq_true_eq] at h
+  exact (Rat.coe_int_num_of_den_eq_one h).symm
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicNorm.lean:310]: This lemma should be moved earlier.

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 48]
```diff
@@ -431,6 +435,38 @@ theorem min_le_padicValRat_add {q r : ℚ} (hqr : q + r ≠ 0) :
...
+    rw [min_eq_right h2.le] at h3
+    exact lt_min h2 (lt_of_le_of_ne h3 hval)
+  · contrapose! h3
+    rw [min_eq_right h3.le] at h2
+    exact lt_min h3 (lt_of_le_of_ne h2 hval.symm)
+
+lemma add_eq_of_lt {q r : ℚ} (hqr : q + r ≠ 0)
+    (hq : q ≠ 0) (hr : r ≠ 0) (hval : padicValRat p q < padicValRat p r) :
+    padicValRat p (q + r) = padicValRat p q := by
+  rw [add_eq_min hqr hq hr (ne_of_lt hval),min_eq_left (le_of_lt hval)]
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:458]:
```suggestion
  rw [add_eq_min hqr hq hr (ne_of_lt hval), min_eq_left (le_of_lt hval)]
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 49]
```diff
@@ -431,6 +435,38 @@ theorem min_le_padicValRat_add {q r : ℚ} (hqr : q + r ≠ 0) :
...
+
+lemma lt_add_of_lt {q r₁ r₂ : ℚ} (hqr : r₁ + r₂ ≠ 0)
+    (hval₁ : padicValRat p q < padicValRat p r₁) (hval₂ : padicValRat p q < padicValRat p r₂) :
+    padicValRat p q < padicValRat p (r₁ + r₂) :=
+  lt_of_lt_of_le (lt_min hval₁ hval₂) (padicValRat.min_le_padicValRat_add hqr)
+
+@[simp]
+lemma self_pow_div (r : ℕ) : padicValRat p ((p : ℚ) ^ r)⁻¹ = -r := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:466]:
```suggestion
lemma self_pow_inv (r : ℕ) : padicValRat p ((p : ℚ) ^ r)⁻¹ = -r := by
```

**Review by tb65536 — APPROVED** [review]
Looking very good. Maybe someone else can take one last look over?

**Review by alexjbest — APPROVED** [review]
lgtm once those last two comments are taken care of

File: Mathlib/NumberTheory/Padics/PadicNorm.lean (hunk 47 above)
Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/PadicNorm.lean:310]: Can you suggest a place this could go? The most natural place I can think of is `Std/Data/Rat`, but that seems like its a different package(?)

Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/PadicNorm.lean:310]: Perhaps here? But this seems barren so I don't know: https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/Init/Data/Rat/Basic.lean

Comment (tb65536) [reply Mathlib/NumberTheory/Padics/PadicNorm.lean:310]: I would suggest Data.Rat.Defs, since that is where `Rat.coe_int_num_of_den_eq_one` is located

Comment (kodyvajjha) [reply Mathlib/NumberTheory/Padics/PadicNorm.lean]: OK done.

**Comment by alexjbest** [comment]
maintainer merge

**Comment by alexjbest** [comment]
Thanks for making all these changes @kodyvajjha, hopefully the next PR will be smoother :)

**Comment by kodyvajjha** [comment]
Hahaha hopefully! Thanks @alexjbest

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
